US07888349B2
A modification of the method described in Part D of Example 4 was used to treat tert-butyl 3-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate (36.76 g, 98.1 mmol) with potassium tert-butoxide (107.9 mL of a 1 M solution in THF). Following the work-up procedure, the product was mixed with ethyl acetate. The resulting mixture was filtered to remove a solid, and the filtrate was concentrated under reduced pressure to provide 30.0 g of tert-butyl 11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate.

reactant | tert-butyl 3-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate | 98.1 mmol, 36.76 g | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCNC(OC(C)(C)C)=O | C19H23ClN4O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl 11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | 30.0 g | C1=C2C3=C(C=NC2=CC=C1)N=C1N3CCCN(C1)C(=O)OC(C)(C)C | C19H22N4O2
